US06518423B1
7-Methoxy-10-(methoxymethyl)-10H-pyrazino[2,3-b][1,4]-benzoxazine-8-carboxaldehyde
To a solution of 1.17 g of 7-methoxy-10-(methoxymethyl)-10H-pyrazino[2,3-b][1,4]-benzoxazine-8-methanol in 50 ml of 1,2-dichloroethane was added 3.2 g of manganese dioxide and the resulting mixture was heated under reflux for 2 hours. The reaction mixture was filtered through celite. After distilling off the solvent under reduced pressure, 0.75 g of the title compound was obtained as a brown solid.

reactant | 7-methoxy-10-(methoxymethyl)-10H-pyrazino[2,3-b][1,4]-benzoxazine-8-methanol | 1.17 g | COC1=CC2=C(N(C3=C(O2)N=CC=N3)COC)C=C1CO | C14H15N3O4
solvent | 1,2-dichloroethane | 50 ml | ClCCCl | C2H4Cl2
catalyst | manganese dioxide | 3.2 g | [O-2].[O-2].[Mn+4]
product | 7-Methoxy-10-(methoxymethyl)-10H-pyrazino[2,3-b][1,4]-benzoxazine-8-carboxaldehyde | 0.75 g | COC1=CC2=C(N(C3=C(O2)N=CC=N3)COC)C=C1C=O | C14H13N3O4
